US04634713
A mixture of 18.3 g of 1-(4-aminocyclohexyl)-2-imidazolidinone as a mixture of cis and trans isomers, 2.0 g of benzyltributylammonium chloride, 250 ml of ethyl acetate and 360 ml of an aqueous 10% potassium hypochlorite solution [according to methodology as described by C. A. Meyers, J. Org. Chem. 26, 1046 (1961)] is stirred at room temperature for 11/2 hours. The organic layer is separated and the aqueous layer is extracted with ethyl acetate. The pooled organic phases are washed with water, sodium bicarbonate solution and dilute hydrochloric acid, then dried and evaporated to dryness to yield 1-(4-oxocyclohexyl)-2-imidazolidinone.

reactant | 1-(4-aminocyclohexyl)-2-imidazolidinone | 18.3 g | NC1CCC(CC1)N1C(NCC1)=O | C9H17N3O
reactant | potassium hypochlorite | Cl[O-].[K+]
catalyst | benzyltributylammonium chloride | 2.0 g | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-oxocyclohexyl)-2-imidazolidinone | O=C1CCC(CC1)N1C(NCC1)=O | C9H14N2O2
